US06737435B1
(i) N-(3,4-Dichlorobenzyl)-5-acetoxyindole-2-carboxylic acid
Dimethylaminopyridine (100 mg) and acetic anhydride (1.12 ml) were added to a solution of N-(3,4-Dichlorobenzyl)-5-hydroxyindole-2-carboxylic acid in ethyl acetate (50 ml) and stirred at ambient temperature for 1 hour. Ethanol (10 ml) was added and the reaction was stirred for 30 min. Solvent partially evaporated and iso-hexane added to give a precipitate, which was filtered off and dried to give the product as a white solid (1.2 g). NMR: δ 2.25 (s, 3H), 5.85 (s, 2H), 6.9 (dd, 1H), 7.3-7.6 (m, 5H); m/z 376, 378 (M−H+)

reactant | Dimethylaminopyridine | 100 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | acetic anhydride | 1.12 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | N-(3,4-Dichlorobenzyl)-5-hydroxyindole-2-carboxylic acid | ClC=1C=C(CN2C(=CC3=CC(=CC=C23)O)C(=O)O)C=CC1Cl | C16H11Cl2NO3
reactant | Ethanol | 10 ml | C(C)O | C2H6O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | N-(3,4-Dichlorobenzyl)-5-acetoxyindole-2-carboxylic acid | 1.2 g | ClC=1C=C(CN2C(=CC3=CC(=CC=C23)OC(C)=O)C(=O)O)C=CC1Cl | C18H13Cl2NO4
